US04831152
(1) Synthesis of (2-amino-4-chloro-5-nitrophenyl)benzoate
377 g (2 moles) of 2-amino-4-chloro-5-nitrophenol and 280 ml (2 moles) of triethylamine were added to 1 liter of N,N-dimethylacetoamide, followed by dropping 281 g (2 moles) of benzoyl chloride at about 50° C. in about 30 minutes. After continuing the agitation for further 30 minutes, 1 liter of methanol and 1 liter of water were added to the reaction solution. The resulting crystals were filtered and washed with 1 liter of methanol, thereby obtaining 547 g (yield 94%) of captioned benzoate compound. m.p. 207°-210° C., IR spectrum νC=0, 1725 cm-1.

reactant | 2-amino-4-chloro-5-nitrophenol | 2 moles, 377 g | NC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])O | C6H5ClN2O3
reactant | triethylamine | 2 moles, 280 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylacetoamide | 1 liter | CN(C(C)=O)C | C4H9NO
reactant | benzoyl chloride | 2 moles, 281 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | 1 liter | O | H2O
solvent | methanol | 1 liter | CO | CH4O
product | (2-amino-4-chloro-5-nitrophenyl)benzoate | 547 g, yield 94% | NC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])OC(C1=CC=CC=C1)=O | C13H9ClN2O4
